US09421205B2
(h) tert-Butyl 3-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate (I141)
1-Hydroxybenzotriazole (38.0 mg, 0.28 mmol), EDCl (50.0 mg, 0.32 mmol) and N,N-diisopropylethylamine (187 uL, 1.08 mmol) were added to a solution of lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I140) (124 mg, 0.215 mmol) in dry THF (6 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. Ammonium carbonate (101 mg, 1.08 mmol) was added in one portion to the stirred reaction mixture after 10 minutes and the reaction was stirred at room temperature for 23 hours. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (65 mL) and washed with saturated NaHCO3 (65 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (50 mL) and dried over MgSO4. The solvent was removed in vacuo to afford a pale yellow oil. The crude material was purified by column chromatography on silica gel (0-80% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I141) (76 mg, 62%) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.02 (s, 1H), 7.56 (d, J=7.4 Hz, 2H), 7.29-7.20 (m, 4H, obscured by solvent), 5.36 (d, J=21.2 Hz, 2H), 3.89-3.76 (m, 1H), 3.66-3.51 (m, 2H), 3.45-3.27 (m, 4H), 3.15-3.04 (m, 4H), 2.29-2.25 (m, 1H), 2.01-1.94 (m, 1H), 1.49 (s, 9H). LCMS Method C: rt 6.37 min; m/z 570.1 [M+H]+, 568.2 [M−H]−.

reactant | 1-Hydroxybenzotriazole | 0.28 mmol, 38.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.32 mmol, 50.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 1.08 mmol, 187 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.215 mmol, 124 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+]
reactant | Ammonium carbonate | 1.08 mmol, 101 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate | 76 mg, 62% | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C30H34F3N5O3
